US09126984B2
Intermediate 32: benzyl 3-hydroxycyclobutanecarboxylate
NaBH4 (215 mg; 5.68 mmol) was added to the solution of benzyl 3-oxocyclobutanecarboxylate (2.3 g; 11.3 mmol) in THF (30 mL) and MeOH (1.5 mL). The reaction mixture was stirred for 0.5 hour at 0° C., diluted with water (20 mL), and extracted with DCM (50 mL×2). The combined organic layers were dried over anhydrous Na2SO4, filtered, concentrated, and purified by reverse phase flash chromatography to afford 1.24 g (53%) of the title compound as a yellow oil.

reactant | NaBH4 | 5.68 mmol, 215 mg | [BH4-].[Na+]
reactant | benzyl 3-oxocyclobutanecarboxylate | 11.3 mmol, 2.3 g | O=C1CC(C1)C(=O)OCC1=CC=CC=C1 | C12H12O3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1.5 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | benzyl 3-hydroxycyclobutanecarboxylate | 1.24 g, 53% | OC1CC(C1)C(=O)OCC1=CC=CC=C1 | C12H14O3
